US08754226B2
To a stirred solution of tert-butyl 4-aminopiperidine-1-carboxylate (2.4 g, 12 mmol) in CH2Cl2 (30 mL) was added trimethylaluminum (6.0 mL, 12 mmol) dropwise. The resulting mixture was stirred for 15 minutes, then (S)-3-(4-bromo-2-fluoro-5-methylphenoxy)dihydrofuran-2(3H)-one (2.9 g, 10 mmol) in CH2Cl2 (30 mL) was added slowly and stirred at ambient temperature for 1 hour. The reaction was slowly quenched with 5% tartaric acid, neutralized with aqueous NaHCO3 and filtered through celite. The filtrate was extracted with CH2Cl2, dried over Na2SO4, filtered and concentrated. The residue was purified over silica gel (100% EtOAc) to afford (S)-tert-butyl 4-(2-(4-bromo-2-fluoro-5-methylphenoxy)-4-hydroxybutanamido)piperidine-1-carboxylate (3.2 g, 6.5 mmol, 65% yield).

reactant | tert-butyl 4-aminopiperidine-1-carboxylate | 12 mmol, 2.4 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | trimethylaluminum | 12 mmol, 6.0 mL | C[Al](C)C
reactant | (S)-3-(4-bromo-2-fluoro-5-methylphenoxy)dihydrofuran-2(3H)-one | 10 mmol, 2.9 g | BrC1=CC(=C(O[C@@H]2C(OCC2)=O)C=C1C)F | C11H10BrFO3
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 4-(2-(4-bromo-2-fluoro-5-methylphenoxy)-4-hydroxybutanamido)piperidine-1-carboxylate | 6.5 mmol, 3.2 g, 65% yield | BrC1=CC(=C(O[C@H](C(=O)NC2CCN(CC2)C(=O)OC(C)(C)C)CCO)C=C1C)F | C21H30BrFN2O5
